US09328103B2
To a stirring solution of 2-Chloro-N-(3-nitrophenyl)pyridine-4-amine (2.70 g, 10.82 mmol) in THF (45 mL) was added Et3N (6.32 mL, 45.3 mmol). The mixture was cooled to 0° C., and DMAP (0.0135 g, 0.110 mmol) and BOC2O (2.84 g, 12.99 mmol) were added. The mixture was warmed to rt and stirred for 18 h. The mixture was quenched with ice and diluted with water. Extracted with EtOAc (3×200 mL), washed with brine and water, dried (MgSO4), and concentrated. A dark oil was afforded, which was passed through a pad of silica gel, eluting with 1:1 EtOAc/hexanes. Concentrated and dried under high vacuum to afford tert-Butyl 2-chloropyridin-4-yl(3-nitrophenyl)carbamate (3.65 g, 96.5% yield).

reactant | 2-Chloro-N-(3-nitrophenyl)pyridine-4-amine | 10.82 mmol, 2.70 g | ClC1=NC=CC(=C1)NC1=CC(=CC=C1)[N+](=O)[O-] | C11H8ClN3O2
reactant | Et3N | 45.3 mmol, 6.32 mL | CCN(CC)CC | C6H15N
reactant | BOC2O | 12.99 mmol, 2.84 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | THF | 45 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 0.110 mmol, 0.0135 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-Butyl 2-chloropyridin-4-yl(3-nitrophenyl)carbamate | 3.65 g, 96.5% yield | ClC1=NC=CC(=C1)N(C(OC(C)(C)C)=O)C1=CC(=CC=C1)[N+](=O)[O-] | C16H16ClN3O4
